US04946761
1.6 parts of sodium hydroxide was dissolved in ethanol. A solution of 5 parts of p-aminothiophenol in 20 parts of ethanol was added to the solution. The mixture thus obtained was cooled at 0° C. or below. A solution of 3.8 parts of chloroacetic acid and 3.4 parts of sodium hydrogencarbonate in 10 parts of water was added dropwise to the mixture, while the mixture was kept at 0° C. or below. After completion of the addition, the mixture was stirred at 0° C. for 3 hours and then adjusted at pH 3. A solid thus formed was filtered to obtain 5.4 parts of p-aminothiophenoxyacetic acid.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | p-aminothiophenol | NC1=CC=C(C=C1)S | C6H7NS
reactant | chloroacetic acid | ClCC(=O)O | C2H3ClO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | p-aminothiophenoxyacetic acid | NC1=CC=C(SCC(=O)O)C=C1 | C8H9NO2S
